US06057322
b) 2-Chloro-4-phenoxy-5-methylsulfonylbenzoic acid
3.4 g of methyl 2-chloro-4-phenoxy-5-methylsulfonylbenzoate were dissolved in 40 ml of MeOH and 9.9 ml of a 2 N aqueous NaOH solution were added. The mixture was stirred at RT for 4 hours, adjusted to pH=1-2 using a 2 N aqueous HCl solution and extracted 3 times using 150 ml of EA each time. The organic phase was dried over Na2SO4, the solvent was removed in vacuo and 2.9 g of white crystals were obtained,

reactant | methyl 2-chloro-4-phenoxy-5-methylsulfonylbenzoate | 3.4 g | ClC1=C(C(=O)OC)C=C(C(=C1)OC1=CC=CC=C1)S(=O)(=O)C | C15H13ClO5S
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | MeOH | 40 ml | CO | CH4O
product | 2-Chloro-4-phenoxy-5-methylsulfonylbenzoic acid | 2.9 g | ClC1=C(C(=O)O)C=C(C(=C1)OC1=CC=CC=C1)S(=O)(=O)C | C14H11ClO5S
